US07799822B2
Synthesized according to general procedure 68. Under an N2 atmosphere at −78° C., 2,2,2-trifluoroacetic anhydride (5.2 mL, 37.5 mmol) was added drop wise to a solution of 2-fluoroaniline (4.16 gm, 37.5 mmol), triethylamine (5.2 mL, 37.5 mmol), and CH2Cl2 (63 mL). The reaction was allowed to warm to RT over a period of 30 minutes. After evaporating the solvents under reduced pressure, purification via silica gel chromatography using 7/3 hexanes/EtOAc gave 2,2,2-trifluoro-N-(2-fluorophenyl)acetamide as a white solid (6.69 g, 88%). 1H NMR (400 MHz, DMSO-d6) δ 11.2 (s, 1H), 7.64-7.25 (m, 4H). LC/MS (10%/99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=208; tR=1.18 min.

reactant | 2,2,2-trifluoroacetic anhydride | 37.5 mmol, 5.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-fluoroaniline | 37.5 mmol, 4.16 gm | FC1=C(N)C=CC=C1 | C6H6FN
reactant | triethylamine | 37.5 mmol, 5.2 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 63 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-(2-fluorophenyl)acetamide | 6.69 g, 88% | FC(C(=O)NC1=C(C=CC=C1)F)(F)F | C8H5F4NO
